US05281614
Step B: 4-Aminomethyl-2'-(t-butoxycarbonyl)biphenyl
A mixture of 2.62 g (6.35 mmole) of N-[[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl]phthalimide, 1.21 ml (1.25 g, 25 mmole) of 100% hydrazine hydrate, and 35 ml of absolute ethanol was stirred at room temperature for 7.5 hours. During this time all of the solid gradually dissolved, followed by precipitation. Glacial acetic acid (3.7 ml) was added, and stirring was continued overnight. The white solid was then removed by filtration, and the filtrate was concentrated at room temperature. The residual oil was taken up in 100 ml of ether and washed with 2×50 ml of saturated aqueous Na2CO3 solution. Next, the product was extracted by shaking the ethereal solution with 50 ml of 0.5N HCl. The aqueous layer was separated and basified by addition of excess saturated Na2CO3. The product, which oiled out, was extracted with 100 ml of ether. The other phase was dried (Na2SO4), filtered, and concentrated at 30° C. to give 1.58 g (88%)of a very pale yellow, viscous oil, homogeneous by TLC in 95:5:0.5 CH2Cl2 -MeOH-concd. NH4OH.

reactant | N-[[2'-(t-butoxycarbonyl)biphenyl-4-yl]methyl]phthalimide | 6.35 mmole, 2.62 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C26H23NO4
reactant | hydrazine hydrate | 25 mmole, 1.21 ml, 1.25 g | O.NN
reactant | NH4OH | [NH4+].[OH-]
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 4-Aminomethyl-2'-(t-butoxycarbonyl)biphenyl | NCC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C | C18H21NO2
